US04478833
8-(2-Diethylaminoethyl-thio)-2-(2-hydroxypropyl-amino)4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(2-diethylaminoethyl-thio)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 146°-148° C.) and 2-hydroxypropyl-amine. Resin.

reactant | 2-chloro-8-(2-diethylaminoethyl-thio)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCCN(CC)CC)N2CCS(CC2)=O | C16H23ClN6OS2
reactant | 2-hydroxypropyl-amine | OC(CN)C | C3H9NO
product | 8-(2-Diethylaminoethyl-thio)-2-(2-hydroxypropyl-amino)4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C)N(CCSC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCC(C)O)CC | C19H31N7O2S2
